US03972866
The bis-pyrrolidinochlorophosphine oxide was prepared as follows: 56.8 g (0.8 mole) pyrrolidine, 80.8 g (0.8 mole) triethylamine and 300 ml dry benzene were charged into a 1 liter three-necked flask equipped with a stirrer, condenser and dropping funnel. A solution of POCl3 in 70 mls dry benzene was added dropwise under a stream of dry nitrogen. The reaction was exothermic. On complete addition of the POCl3 /benzene solution, the reaction mixture was stirred for 11/2 hours at room temperature. The precipitated triethylamine hydrochloride was filtered off and the filtrate evaporated using a rotary evaporator under reduced pressure (60 mm). The product was fractionally distilled under reduced pressure (0.3 - 0.5 mm) and the fraction distilling between 138°-140° collected. This fraction was identified as ##EQU59##

reactant | pyrrolidine | 0.8 mole, 56.8 g | N1CCCC1 | C4H9N
reactant | triethylamine | 0.8 mole, 80.8 g | C(C)N(CC)CC | C6H15N
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 benzene | O=P(Cl)(Cl)Cl.C1=CC=CC=C1
solvent | benzene | 70 mls | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | bis-pyrrolidinochlorophosphine oxide | N1(CCCC1)P(Cl)(N1CCCC1)=O | C8H16ClN2OP
